US06617326B2
A mixture of 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile (1.26 g, 4.3 mmol), potassium acetate (1.26 g, 12.8 mmol) and bis(neopentyl glycolato)diboron (1.07 g, 4.7 mmol) in 1,4-dioxane containing 2% v/v dimethylsulfoxide (20 ml) was degassed with nitrogen for 10 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (105 mg, 0.13 mmol) was then added and the mixture heated at 90° C. for 16 h. After cooling to ambient temperature the reaction mixture was filtered to remove inorganics and the filter cake was washed with diethyl ether. The filtrate was evaporated to dryness and the residue stirred with ice-cold 2 N sodium hydroxide solution (50 ml) for 45 min. This basic mixture was washed with diethyl ether and the organics discarded. The pH of the aqueous phase was adjusted to 5 with 36% hydrochloric acid then extracted with diethyl ether (50 ml). The organic phase was washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4,2′-difluorobiphenyl-2-carbonitrile as a brown oil which crystallised on standing (1.15 g, 82%): 1H NMR (360 MHz, CDCl3) δ 1.03 (6H, s), 3.76 (4H, s), 7.20 (1H, dd, J 10, 8 Hz), 7.33-7.38 (1H, m), 7.44-7.50 (2H, m), 7.81 (1H, dd, J 8, 2 Hz), 7.85-7.90 (1H, m).

reactant | 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile | 4.3 mmol, 1.26 g | BrC=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C13H6BrF2N
reactant | potassium acetate | 12.8 mmol, 1.26 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | 4.7 mmol, 1.07 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.13 mmol, 105 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4,2′-difluorobiphenyl-2-carbonitrile | 77% yield | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F)C | C18H16BF2NO2
